US09340520B2
Lithium hydroxide hydrate (8.51 g, 203 mmol) in H2O (270 mL) was added dropwise to a stirred solution of (S)-ethyl 2-((2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl)-2-(methoxycarbonyl-amino)acetate (27.7 g, 101 mmol) in THF (405 mL) over 65 min, while maintaining an internal temperature <5° C. The reaction mixture was stirred in an ice bath for 40 min and then in a water bath at RT for 5 h. The reaction mixture was partially concentrated to remove the THF and then partitioned between water (250 mL) and DCM (250 mL). The aqueous layer was adjusted to pH=2 with 1 N HCl (205 mL), and then extracted with isopropyl acetate (7×250 mL). The combined extracts were washed with brine (1×600 mL), dried (MgSO4), filtered and concentrated. The resulting viscous oil was treated with toluene (100 mL) and ether (75 mL), evaporated and dried in vacuo to afford Cap-2 (25.8 g, with 0.33 eq. of toluene) as a white foam. Chiral SFC purity >99.9% (Chiralpak AD-H (25×0.46 cm, 5 μm) 5% EtOH in CO2, 3 mL/min, 35° C., 220 nm, 100 bar). HPLC purity 95.6% (Column: Sunfire C8 75×4.6 mm ID; 2.5 μm; 40° C.; Mobile Phase: A=Water w/0.1% Formic Acid; B=CH3CN w/0.1% Formic Acid). LC/MS (ES+) 228.1 (M+H—H2O)+. By 1H-NMR the material contained about 0.33 eq. of toluene. 1H-NMR (400 MHz, CDCl3) δ 5.29 (d, J=8.6 Hz, 1H), 4.46-4.25 (m, 2H), 3.82 (dd, J=9.7, 5.9 Hz, 1H), 3.74 (s, 3H), 2.46-2.30 (m, 1H), 1.76-1.55 (m, 2H), 1.51-1.35 (m, 1H), 1.29 (d, J=6.8 Hz, 3H), 1.18 (d, J=6.2 Hz, 3H), 1.18-1.06 (m, 1H). 13C-NMR (101 MHz, CDCl3) δ 174.1, 156.7, 68.3, 64.4, 57.5, 52.2, 35.8, 32.6, 30.3, 21.6, 16.7.

reactant | Lithium hydroxide hydrate | 203 mmol, 8.51 g | O.[OH-].[Li+]
reactant | (S)-ethyl 2-((2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl)-2-(methoxycarbonyl-amino)acetate | 101 mmol, 27.7 g | C[C@H]1O[C@@H](CC(C1)[C@@H](C(=O)OCC)NC(=O)OC)C | C13H23NO5
solvent | H2O | 270 mL | O | H2O
solvent | THF | 405 mL | C1CCOC1 | C4H8O
product | (S)-2-((2R,6R)-2,6-Dimethyltetrahydro-2H-pyran-4-yl)-2-(methoxycarbonylamino) acetic acid | 25.8 g, 0.33 eq. | C[C@H]1O[C@@H](CC(C1)[C@@H](C(=O)O)NC(=O)OC)C | C11H19NO5
